US05679696
A suspension of methyl 3-cyclopentyloxy-4-(methylthio)benzoate (0.8 g; that is prepared as described in Reference Example 54) in methanol (10 mL) and water (5 mL) is treated with potassium carbonate (0.48 g) and the mixture is heated at reflux for 7 hours. The mixture is concentrated, and the resulting residue is partitioned between diethyl ether (20 mL) and water (20 mL). The aqueous layer is separated, acidified to pH 1 by treatment with dilute hydrochloric acid (2N), and extracted with dichloromethane (2×25 mL). The combined organic extracts are dried and concentrated, to give 3-cyclopentyloxy-4-(methylthio)benzoic acid (0.7 g) in the form of a white solid m.p. 150°-152° C.

reactant | methyl 3-cyclopentyloxy-4-(methylthio)benzoate | C1(CCCC1)OC=1C=C(C(=O)OC)C=CC1SC | C14H18O3S
reactant | water | 5 mL | O | H2O
reactant | potassium carbonate | 0.48 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 10 mL | CO | CH4O
product | 3-cyclopentyloxy-4-(methylthio)benzoic acid | 0.7 g | C1(CCCC1)OC=1C=C(C(=O)O)C=CC1SC | C13H16O3S
